US08119666B2
A 60% suspension of sodium hydride in mineral oil (490 mg, 12.2 mmol) is stirred in 15 mL of DMF. To this mixture is carefully added benzenethiol (1.25 mL, 1.34 g, 12.2 mmol) and the mixture stirred for 1 h. To this solution is added portionwise 2-benzyloxy-4-fluoronitrobenzene (3.00 g, 12.1 mmol), giving initially a dark solution that eventually changed to pale yellow. When LC shows disappearance of starting material, the mixture is poured into ethyl acetate and extracted with water, 1N sodium hydroxide, and four times with brine. This solution is dried, filtered, and solvent removed under reduced pressure to leave a heterogeneous mixture that is triturated with hexane, filtered, and the solids washed with hexane to afford 2-benzyloxy-1-nitro-4-phenylsulfanylbenzene, mp 77-79° C.: NMR (CDCl3) δ 7.79 (d, 1H, J=8.6 Hz), 7.46 (m, 5H), 7.33 (m, 5H), 6.77 (d, 1H, J=1.8 Hz), 6.72 (dd, 1H, J=8.6, 1.8 Hz), 5.08 (s, 2H).

reactant | sodium hydride | [H-].[Na+]
reactant | benzenethiol | 12.2 mmol, 1.25 mL, 1.34 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2-benzyloxy-4-fluoronitrobenzene | 12.1 mmol, 3.00 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C13H10FNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-benzyloxy-1-nitro-4-phenylsulfanylbenzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C19H15NO3S
